US05310748
Part A. A solution of 5-aminopentanol (30.0 g, 291 mmol) and triethylamine (50.0 mL, 359 mmol) in tetrahydrofuran (500 mL) was cooled to 0° C., and a solution of 5-bromovaleryl chloride (30.0 mL, 226 mmol) in tetrahydrofuran (200 mL) was added dropwise. After slow warming and stirring for 18 hours, the mixture was poured into water (1 L), and the phases were separated. The aqueous layer was extracted with methylene chloride (2×600 mL). The organic phases were combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The oily product was purified by elution through a silica gel plug with ethyl acetate, and evaporation afforded the product, N-(5-hydroxypentyl)-5-bromopentanamide (47.3 g, 178 mmol, 79%).

reactant | 5-aminopentanol | 291 mmol, 30.0 g | NCCCCCO | C5H13NO
reactant | triethylamine | 359 mmol, 50.0 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromovaleryl chloride | 226 mmol, 30.0 mL | BrCCCCC(=O)Cl | C5H8BrClO
reactant | water | 1 L | O | H2O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | N-(5-hydroxypentyl)-5-bromopentanamide | 178 mmol, 47.3 g, 79% | OCCCCCNC(CCCCBr)=O | C10H20BrNO2
